US07956070B2
Step 1: 1-(2-Methoxy-2-oxoethyl)-6-oxo-4-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylic acid
To a stirred suspension of 6-oxo-4-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylic acid (0.207 g) and potassium carbonate (0.553 g) in methanol (5 mL) was added methyl bromoacetate (0.104 mL) at room temperature. After 16 h, the reaction was not complete, so further methyl bromoacetate (0.15 mL) was added. After a further 16 h, the mixture was concentrated in vacuo before the addition of 1 N aqueous hydrochloric acid (30 mL) and extracted into ethyl acetate (3×25 mL), dried over Na2SO4, filtered, and concentrated in vacuo to leave a white solid (300 mg).

reactant | 6-oxo-4-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylic acid | 0.207 g | O=C1C=C(C(=CN1)C(=O)O)C(F)(F)F | C7H4F3NO3
reactant | potassium carbonate | 0.553 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.104 mL | BrCC(=O)OC | C3H5BrO2
reactant | methyl bromoacetate | 0.15 mL | BrCC(=O)OC | C3H5BrO2
solvent | methanol | 5 mL | CO | CH4O
product | 1-(2-Methoxy-2-oxoethyl)-6-oxo-4-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylic acid | 300 mg | COC(CN1C=C(C(=CC1=O)C(F)(F)F)C(=O)O)=O | C10H8F3NO5
